US03974153
(6R,7R)-7-Amino-3-carbamoyloxymethylceph-3-em-4-carboxylic Acid
Diphenylmethyl (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylate toluene-p-sulphonic acid salt (300.0 g, 0.44 mole), solvated with ca. 0.6 mole of chloroform, was added in portions over 30 minutes to a stirred mixture of trifluoroacetic acid (300 ml) and anisole (300 ml) immersed in a water-bath at 20°. The temperature of the mixture rose from 23° to 28° over the first 20 minutes but fell back to 26° by the end of the addition. The golden yellow solution was stirred for 1 hour, the temperature falling to 21°, and was then added to a stirred mixture of ethyl acetate (1.5 liters) and water (1.5 liters) immersed in an ice-bath. The pH of the stirred mixture was adjusted to 3.8 over 10 minutes with ammonia solution (S.G. 0.880), the temperature rising to 38°. The suspension was stirred and cooled to 10° over 1.25 hours and filtered. The cream solid was washed with water (750 ml) and ethyl acetate (4 × 200 ml) and dried in vacuo to give the title compound (115.6 g, 96.2%); λmax (pH6 phosphate) 265nm (ε7,750); purity by HPLC (high pressure liquid chromatography) 99.7%.

reactant | Diphenylmethyl (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylate toluene-p-sulphonic acid salt | 0.44 mole, 300.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | chloroform | ca. 0.6 mole | C(Cl)(Cl)Cl | CHCl3
reactant | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 300 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | ammonia | N | H3N
solvent | water | 1.5 liters | O | H2O
solvent | ethyl acetate | 1.5 liters | C(C)(=O)OCC | C4H8O2
product | (6R,7R)-7-Amino-3-carbamoyloxymethylceph-3-em-4-carboxylic Acid | 115.6 g, 96.2% | N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
